US08334310B2
To a stirred solution of (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-isothiocyanato-tetrahydro-2H-pyran-2,4,5-triyl triacetate (0.54 g, 1.39 mmol) in CH3CN, was added neat 2-fluoroethanamine (0.28 g, 2.79 mmol), dropwise. The reaction was stirred at room temperature until complete by TLC (3 h). The reaction was washed with a minimal amount of saturated aqueous NaHCO3 (15 mL). The aqueous layer was then extracted three times with DCM, and the organic layers were combined, dried with MgSO4, filtered and concentrated. The concentrated mixture was purified via flash column chromatography in a solvent system of EtOAc and hexanes (1:1), providing (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(3-(2-fluoroethyl)thioureido)-tetrahydro-2H-pyran-2,4,5-triyl triacetate (0.358 g, 57% yield). 1H NMR (500 MHz, CDCl3) δ 1.23 (t, 2H, J=7.3 Hz), 2.02 (s, 3H), 2.05 (s, 3H), 2.10 (s, 3H), 2.11 (s, 3H), 3.85-3.88 (m, 2H), 4.07-4.12 (m, 1H), 4.25 (dd, 1H, J=4.6, 12.5 Hz), 4.47-4.53 (m, 1H), 4.54-4.63 (m, 1H), 5.14 (t, 1H, J=9.7 Hz), 5.25 (t, 1H, J=5.4 Hz), 5.73 (d, 1H, J=8.6 Hz), 6.50 (d, 1H, J=9.3 Hz), 6.68 (t, 1H, J=5.4 Hz).

reactant | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-isothiocyanato-tetrahydro-2H-pyran-2,4,5-triyl triacetate | 1.39 mmol, 0.54 g | C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1N=C=S)OC(C)=O)OC(C)=O)COC(C)=O | C15H19NO9S
reactant | 2-fluoroethanamine | 2.79 mmol, 0.28 g | FCCN | C2H6FN
solvent | CH3CN | CC#N | C2H3N
product | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(3-(2-fluoroethyl)thioureido)-tetrahydro-2H-pyran-2,4,5-triyl triacetate | 0.358 g, 57% yield | C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1NC(=S)NCCF)OC(C)=O)OC(C)=O)COC(C)=O | C17H25FN2O9S
